US04851410
4-Methylamino-3-[3-(4-piperidinomethylpyrazol-1-yloxy)propylamino]-1,2,5-thiadiazole 1-oxide
2.4 g of 4-methylamino-3-methoxy-1,2,5-thiadiazole 1-oxide and 3.5 g of 3-(4-piperidinomethylpyrazol-1-yloxy)propylamine are dissolved in 50 ml of methanol, and the solution is left to stand at room temperature for 12 hours. The solution is then evaporated down and the residue is chromatographed over neutral Al2O3 (activity level III), using methylene chloride/3% strength methanol as the mobile phase. 4 g of the title compound are obtained, the product being crystallized from ethyl acetate.

reactant | 4-methylamino-3-methoxy-1,2,5-thiadiazole 1-oxide | 2.4 g | CNC=1C(=NS(N1)=O)OC | C4H7N3O2S
reactant | 3-(4-piperidinomethylpyrazol-1-yloxy)propylamine | 3.5 g | N1(CCCCC1)CC=1C=NN(C1)OCCCN | C12H22N4O
solvent | methanol | 50 ml | CO | CH4O
product | 4-Methylamino-3-[3-(4-piperidinomethylpyrazol-1-yloxy)propylamino]-1,2,5-thiadiazole 1-oxide | 4 g | CNC=1C(=NS(N1)=O)NCCCON1N=CC(=C1)CN1CCCCC1 | C15H25N7O2S
